* Auto-generated SPICE netlist (NO TEXT OCR USED)

Q1 n12 n10 n6 QPNPdefault
D1 n5 n3 Ddefault
Q2 n14 n9 n4 QPNPdefault
D2 n9 n5 Ddefault
Q3 n11 n8 n7 QPNPdefault
Q4 n4 n14 0 QNPNdefault
R1 n7 n6 1k
R2 n6 n4 1k
Q5 n9 n12 0 QNPNdefault
Q6 0 n13 n8 QPNPdefault
R3 n2 n7 1k
Q7 n12 n15 0 QNPNdefault
R4 n1 n2 1k
R5 n10 0 1k
V1 n13 0 DC 15
Q8 n11 n15 0 QNPNdefault
Q9 n1 n3 n4 QNPNdefault
V2 n4 0 DC 15
V3 n2 0 DC 15
V4 n6 0 DC 15
V5 n1 0 DC 15
R6 n13 0 1k
.model Ddefault D
.model QNPNdefault NPN
.model QPNPdefault PNP

.op
.end
